US04980361
46.7 g (0.38 mole) of 2,6-dimethylphenol, 65.0 g (0.38 mole) of N-(2-chloroethyl)pyrrolidine hydrochloride, 210.1 g (1.52 mole) of potassium carbonate and 2 g of NaI in 300 ml of ethyl methyl ketone were refluxed for 48 h. The reaction mixture was concentrated under reduced pressure, the residue was partitioned between water and ether, the organic phase was separated off, washed with water and dried, and excess ethereal hydrogen chloride solution was added. The precipitated product was recrystallized from 10/1 ethyl acetate/isopropanol. 63 g of N-[2-(2,6-dimethylphenoxy)ethyl]pyrrolidine hydrochloride were obtained.

reactant | 2,6-dimethylphenol | 0.38 mole, 46.7 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | N-(2-chloroethyl)pyrrolidine hydrochloride | 0.38 mole, 65.0 g | Cl.ClCCN1CCCC1
reactant | potassium carbonate | 1.52 mole, 210.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 300 ml | CC(=O)CC | C4H8O
catalyst | NaI | 2 g | [Na+].[I-]
product | N-[2-(2,6-dimethylphenoxy)ethyl]pyrrolidine hydrochloride | 63 g | Cl.CC1=C(OCCN2CCCC2)C(=CC=C1)C | InChI=1S/C14H21NO.ClH/c1-12-6-5-7-13(2)14(12)16-11-10-15-8-3-4-9-15;/h5-7H,3-4,8-11H2,1-2H3;1H
